US04843068
Sodium 4-[(1,3-dimethyl-5-phenoxypyrazol-4-yl)methyleneaminooxymethyl]benzoate (compound No. 15)
1.0 Gram (0.0027 mole) of 4-[(1,3-dimethyl-5-phenoxypyrazol-4-yl)methyleneaminooxymethyl]benzoic acid and 0.07 g (0.0028 mole) of sodium hydroxide were added to 10 ml of water, and the resulting mixture was stirred for 2 hours. After completion of the reaction, water was removed by evaporation under reduced pressure to obtain the desired compound in a quantitative yield.

reactant | 4-[(1,3-dimethyl-5-phenoxypyrazol-4-yl)methyleneaminooxymethyl]benzoic acid | 0.0027 mole | CN1N=C(C(=C1OC1=CC=CC=C1)C=NOCC1=CC=C(C(=O)O)C=C1)C | C20H19N3O4
reactant | sodium hydroxide | 0.0028 mole, 0.07 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | Sodium 4-[(1,3-dimethyl-5-phenoxypyrazol-4-yl)methyleneaminooxymethyl]benzoate | quantitative yield | CN1N=C(C(=C1OC1=CC=CC=C1)C=NOCC1=CC=C(C(=O)[O-])C=C1)C.[Na+] | InChI=1S/C20H19N3O4.Na/c1-14-18(19(23(2)22-14)27-17-6-4-3-5-7-17)12-21-26-13-15-8-10-16(11-9-15)20(24)25;/h3-12H,13H2,1-2H3,(H,24,25);/q;+1/p-1
